US06727249B2
(1R*,2R*,5S*,6S*)-8-Benzyl-2-{(1S*)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-6-fluoro-1-phenyl-6-(tetrazol-5-yl)-8-azabicyclo[3.2.1]octane
Palladium on charcoal (60 mg) was added to a solution of (1R*,2R*,5S*,6S*)-8-benzyl-2-{(1R*)-1-[3,5-bis(trifluoromethyl)phenyl]-2-iodoethoxy}-6-fluoro-6-[1-(2-methoxyethoxymethyl)-1H-tetrazol-5-yl]-1-phenyl-8-azabicyclo[3.2.1]octane (Description 46; 193 mg, 0.23 mmol) and triethylamine (38 mg, 0.38 mmol) in methanol (3 ml) and ethyl acetate (5 ml). The mixture was hydrogenated at 40 psi. for 3 hours using the Parr™ apparatus. The mixture was filtered through Celite™ and the filtrate concentrated in vacuo. The residue was taken up in a mixture of 1.0M Hydrochloric acid in diethyl ether (5 ml) and methanol (5 ml) and stirred at reflux for 18 hours. The mixture was concentrated in vacuo to yield the title compound (90 mg, 78%).

reactant | (1R*,2R*,5S*,6S*)-8-benzyl-2-{(1R*)-1-[3,5-bis(trifluoromethyl)phenyl]-2-iodoethoxy}-6-fluoro-6-[1-(2-methoxyethoxymethyl)-1H-tetrazol-5-yl]-1-phenyl-8-azabicyclo[3.2.1]octane | 0.23 mmol, 193 mg | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@@](C2)(C2=NN=NN2COCCOC)F)O[C@@H](CI)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=CC=CC=C2 | C35H35F7IN5O3
reactant | triethylamine | 0.38 mmol, 38 mg | C(C)N(CC)CC | C6H15N
catalyst | Palladium on charcoal | 60 mg | [Pd] | Pd
solvent | methanol | 3 ml | CO | CH4O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (1R*,2R*,5S*,6S*)-8-Benzyl-2-{(1S*)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-6-fluoro-1-phenyl-6-(tetrazol-5-yl)-8-azabicyclo[3.2.1]octane | 90 mg, 78% | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@@](C2)(C2=NN=NN2)F)O[C@@H](C)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=CC=CC=C2 | C31H28F7N5O
